US08466289B2
Synthesis of Intermediate 3-Benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide (I-6b)
Dioxane hydrochloride (3 mL) was added to 8-(3-benzyloxy-cyclobutanesulfonylamino)-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester (250 mg) and the resulting mixture was stirred at room temperature for 12 hours. The reaction was monitored by TLC (5% MeOH in CHCl3). The reaction mixture was concentrated; the concentrate was neutralized with NaHCO3 solution and extracted with ethylacetate. The organic layer was washed with brine, dried over Na2SO4 and concentrated to afford 120 mg of the product (55.8% yield).

reactant | Dioxane hydrochloride | 3 mL | Cl.O1CCOCC1
reactant | 8-(3-benzyloxy-cyclobutanesulfonylamino)-7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-imidazo[1,2-a]pyridine-1-carboxylic acid tert-butyl ester | 250 mg | C(C)(C)(C)OC(=O)N1CCN2C1=C(C(=C(C2=O)C)NC2=C(C=C(C=C2)I)F)NS(=O)(=O)C2CC(C2)OCC2=CC=CC=C2 | C30H34FIN4O6S
reactant | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 3-Benzyloxy-cyclobutanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-1,2,3,5-tetrahydro-imidazo[1,2-a]pyridin-8-yl]-amide | 120 mg, 55.8% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCN2)NS(=O)(=O)C2CC(C2)OCC2=CC=CC=C2 | C25H26FIN4O4S
